US08350044B2
Preparation of 2-pyridin-3-yl-4-trifluoromethyl-thiazole-5-carboxylic acid ethyl ester
To a 20 mL microwave tube was added thionicotinamide (0.552 g, 4.0 mmol), ethanol (15 mL) and 2-chloro-4,4,4-trifluoro-3-oxo-butyric acid ethyl ester (1.75 g, 8 mmol). The tube was capped and heated in a microwave at 150° C. for 10 min. The reaction mixture was cooled to ambient temperature and Et3N (1.7 mL, 12 mmol) was added. The tube was capped and heated in a microwave at 130° C. for 1 min. After cooling to ambient temperature the solvent was evaporated and the crude reaction mixture was directly subjected to silica gel chromatography (0 to 100% ethyl acetate/hexanes) to give the desired product as an orange oil which subsequently solidified (0.885 g, 73%): IR (KBr) 2988, 1737, 1712 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.21 (dd, J=2.5, 0.8 Hz, 1H), 8.77 (dd, J=5.0, 1.7 Hz, 1H), 8.33 (dt, J=8.0, 2.2 Hz, 1H), 7.47 (ddd, J=11.8, 4.7, 0.8 Hz, 1H), 4.45 (q, J=14.3, 7.1 Hz, 2H), 1.44 (t, J=7.1 Hz, 3H); ESIMS m/z 303 (M+1).

reactant | thionicotinamide | 4.0 mmol, 0.552 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
reactant | 2-chloro-4,4,4-trifluoro-3-oxo-butyric acid ethyl ester | 8 mmol, 1.75 g | C(C)OC(C(C(C(F)(F)F)=O)Cl)=O | C6H6ClF3O3
reactant | Et3N | 12 mmol, 1.7 mL | CCN(CC)CC | C6H15N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-pyridin-3-yl-4-trifluoromethyl-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)C=1C=NC=CC1)C(F)(F)F | C12H9F3N2O2S
